US06831164B2
2,3,4,6-Tetra-O-pivaloyl-1-O-carboxymethyl-glucopyranose
A mixture that consists of 54.1 g (100 mmol) of 2,3,4,6-tetra-O-pivaloyl-glucopyranose, 1.39 g (5 mmol) of tetrabutylammonium chloride and 11.22 g of potassium-t-butoxide (100 mmol) in 500 ml of dimethylacetamide is cooled to 0° C. At 0° C., 34.36 g (150 mmol) of bromoacetic acid benzyl ester is added in drops over 20 minutes while being stirred vigorously. It is stirred for 0.5 hour at 0° C. 250 toluene is added, the organic phase is separated, it is filtered, and it is evaporated to the dry state in a vacuum. The residue is taken up in 400 ml of methanol, mixed with 5 g of palladium (10%) on activated carbon and hydrogenated until hydrogen absorption is completed. Catalyst is filtered out, it is rewashed with a little methanol, and the combined organic solutions are evaporated to the dry state in a vacuum. The residue is chromatographed on silica gel (mobile solvent: dichloromethane/n-hexane/ethanol/acetic acid=20:5:3:0.5). The product-containing fractions are concentrated by evaporation, dissolved in 400 ml of ethyl acetate and shaken out three times with 200 ml of water. Then, the organic phase is separated and evaporated to the dry state in a vacuum.

reactant | 2,3,4,6-tetra-O-pivaloyl-glucopyranose | 100 mmol, 54.1 g | C(C(C)(C)C)(=O)O[C@H]1C(O)O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O | C26H44O10
reactant | potassium-t-butoxide | 100 mmol, 11.22 g | CC(C)([O-])C.[K+]
reactant | bromoacetic acid benzyl ester | 150 mmol, 34.36 g | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium chloride | 5 mmol, 1.39 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylacetamide | 500 ml | CC(=O)N(C)C | C4H9NO
product | 2,3,4,6-Tetra-O-pivaloyl-1-O-carboxymethyl-glucopyranose | C(C(C)(C)C)(=O)O[C@H]1C(OCC(=O)O)O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O | C28H46O12
